US06723726B1
(1-Benzyl-1H-indol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine Hydrochloride
Prepared according to Procedure A from 1-benzyl-1H-indol-5-ylamine and 4,6-dichloro-pyrido[3,4-d]pyrimidine; δH [2H6]DMSO 11.45(1H,s), 9.08(1H,s), 8.95(1H,s), 8.80(1H,s), 7.98(1H,d), 7.60(2H,m), 7.30(6H,m), 6.60(1H,d), 5.48(2H,s), m/z (M+1+) 386.

reactant | 1-benzyl-1H-indol-5-ylamine | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)N | C15H14N2
reactant | 4,6-dichloro-pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)Cl | C7H3Cl2N3
product | (1-Benzyl-1H-indol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine Hydrochloride | Cl.C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)Cl | InChI=1S/C22H16ClN5.ClH/c23-21-11-18-19(12-24-21)25-14-26-22(18)27-17-6-7-20-16(10-17)8-9-28(20)13-15-4-2-1-3-5-15;/h1-12,14H,13H2,(H,25,26,27);1H
